US05922737
According to the procedure of Tet. Let., 35, 5997-6000 (1994), combine 1-hydroxy-2-tetrahydropyran-2-yloxyethane (J. Chem. Soc. Chem. Commun., 1766 (1990)) (5.0 mmol), 1,1-diethylazodicarboxylate (10 mmol), 2,2,2-trifluoroethanol (100 mmol), and tributylphosphine (10 mmol) in benzene (100 mL). After 6 hours, concentrate intuacuo to give a residue. Chromatograph on silica gel to give 2-tetrahydropyran-2-yloxyethyl 2,2,2-trifluoroethyl ether.

reactant | 1-hydroxy-2-tetrahydropyran-2-yloxyethane | 5.0 mmol | OCCOC1OCCCC1 | C7H14O3
reactant | 2,2,2-trifluoroethanol | 100 mmol | FC(CO)(F)F | C2H3F3O
reactant | tributylphosphine | 10 mmol | C(CCC)P(CCCC)CCCC | C12H27P
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2-tetrahydropyran-2-yloxyethyl 2,2,2-trifluoroethyl ether | FC(COCCOC1OCCCC1)(F)F | C9H15F3O3
